US07282588B2
3-{3-(4-nitrophenyl)-4-[1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-1-yl}-1-propanol
To a solution of 0.5M 9-borabicyclo[3.3.1]nonane in tetrahydrofuran (6.16 mL) cooled to 0° C. was added a solution of 4-[3-(4-nitrophenyl)-1-(2-propen-1-yl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (2.06 mmol) in tetrahydrofuran (14 mL). The reaction mixture was stirred at room temperature under an inert atmosphere for 4.5 h and then re-cooled to 0° C. followed by quenching with water (1.7 mL). After 15 minutes of stirring at 0° C., 6N aqueous sodium hydroxide (1.24 mL) was added dropwise followed by 30% aqueous hydrogen peroxide (0.865 mL). The reaction mixture was stirred for 1.5 h at 0° C., neutralized with 6N aqueous hydrochloric acid and concentrated in vacuo. Water (10 mL) was added to the residue and the solution extracted with ethyl acetate (3×15 mL), the combined organic layers dried over magnesium sulfate and concentrated in vacuo to afford the title compound (84%). ESMS [M+H]+: 504.2

reactant | 9-borabicyclo[3.3.1]nonane | 0.5M | C12CCCC(CCC1)B2 | C8H15B
reactant | 4-[3-(4-nitrophenyl)-1-(2-propen-1-yl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 2.06 mmol | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)CC=C | C25H19N5O4S
reactant | tetrahydrofuran | 6.16 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
product | 3-{3-(4-nitrophenyl)-4-[1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-1-yl}-1-propanol | 84% | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)CCCO | C25H21N5O5S
